US04663353
3,4-Dichloroaniline, 13.7 g (0.084 mole), is dissolved in 200 ml dichloroethane, containing 25 ml pyridine. The solution is stirred at room temperature while nonanoyl chloride, 14.6 g (0.086 mole), is added slowly. The solution is stirred two hours. Excess pyridine is removed by washing the product with 4N hydrochloric acid. A crude product is crystallized from 95% ethanol. There is obtained N-(3,4-dichlorophenyl) nonanamide, a white crystalline solid, (M.P. 68.5-69.0%). Analysis shows 4.52% nitrogen and 23.26% chlorine as against calculated values of 4.63% and 23.48% respectively for C15H21Cl2NO.

reactant | 3,4-Dichloroaniline | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
reactant | nonanoyl chloride | C(CCCCCCCC)(=O)Cl | C9H17ClO
solvent | dichloroethane | 200 ml | ClC(C)Cl | C2H4Cl2
product | N-(3,4-dichlorophenyl) nonanamide | ClC=1C=C(C=CC1Cl)NC(CCCCCCCC)=O | C15H21Cl2NO
